US04535169
C. (+)-(2S)-(Phthalimidomethyl)-3,4-dihydro-2H-pyran
The amine tartrate (107.0 g, 407 mmol) was added to 4N sodium hydroxide (310 mL) and extracted with ether (3×100 mL). The ether was dried over anhydrous sodium sulfate and evaporated in vacuo. The amine which remained was dissolved in tetrahydrofuran (450 mL). With stirring, N-carboethoxyphthalimide (89.60 g, 409 mmol) was added to the solution. The mixture was refluxed overnight then evaporated in vacuo. The residue was taken up into benzene (660 mL) and water (180 mL). The layers were separated and the organic layer was washed with water (180 mL), 5% sodium hydroxide (180 mL), water (2×180 mL), and saturated brine (180 mL). The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo leaving the crude product (97.0 g) as a white solid. This was recrystallized from ether-petroleum ether (1:1). Yield 72.64 g (73%), m.p. 87°-88° C.; Anal. Calcd. for C14H13NO3 : C, 69.12 ; H, 5.39; N, 5.76. Found: C, 69.18; H, 5.36; N, 5.66.

reactant | N-carboethoxyphthalimide | 409 mmol, 89.60 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | sodium hydroxide | 4N, 310 mL | [OH-].[Na+]
product | (+)-(2S)-(Phthalimidomethyl)-3,4-dihydro-2H-pyran | 97.0 g | C1(C=2C(C(N1C[C@H]1OC=CCC1)=O)=CC=CC2)=O | C14H13NO3
